US06498163B1
To a suspension of NaH (33 mg of a 60% suspension of NaH in mineral oil) in 7 mL of dimethylformamide was added 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one (154 mg, 0.65 mmol). The reaction mixture was heated to 60° C. resulting in a clear solution. The solution was cooled slightly, and 3-bromopentane (125 μL, 1.01 mmol) was added. The reaction was heated at 60° C. for 30 minutes, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography eluting with 1:1 ethyl acetate:hexane to provide 45 mg (23%) of 8-(1-ethylpropyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one , mp 116-118° C.

reactant | NaH | [H-].[Na+]
reactant | 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 0.65 mmol, 154 mg | C1(=CC=CC=C1)NC=1N=CC2=C(N1)NC(C=C2)=O | C13H10N4O
reactant | 3-bromopentane | 1.01 mmol, 125 μL | BrC(CC)CC | C5H11Br
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 8-(1-ethylpropyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 45 mg, 23% | C(C)C(CC)N1C(C=CC2=C1N=C(N=C2)NC2=CC=CC=C2)=O | C18H20N4O
